US04757081
In 5 ml of water was dissolved 1.2 g (0.0019 mole) of Oxone. The resulting solution was then added dropwise to 5 ml of a methanol solution of 0.5 g (0.0013 mole) of 1-(3-methanesulfinylphenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone. After stirring the reaction mixture for 2 hours, it was poured into water, followed by extraction with chloroform. The organic layer was washed with water and was thereafter dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was crystallized form a 2:1 mixed solvent of acetone and hexane, affording 0.4 g of 1-(3-methanesulfonylphenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone having a melting point of 246°-248° C.

reactant | Oxone | 0.0019 mole, 1.2 g | OOS(=O)[O-].[K+]
reactant | methanol | 5 ml | CO | CH4O
reactant | 1-(3-methanesulfinylphenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone | 0.0013 mole, 0.5 g | CS(=O)C=1C=C(C=CC1)N1C(=C(C(C=C1C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C25H21NO2S
solvent | water | 5 ml | O | H2O
product | 1-(3-methanesulfonylphenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone | 0.4 g | CS(=O)(=O)C=1C=C(C=CC1)N1C(=C(C(C=C1C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C25H21NO3S
